US09120823B2
A mixture of 2-(3-ethylsulfanyl-pyridin-2-yl)-5-iodo-1-methyl-1H-benzimidazole (340 mg), copper iodide (410 mg), sodium pentafluoropropionate (800 mg), NMP (5 ml), and xylene (5 ml) was stirred at 160° C. for 5 hours. The reaction mixture was allowed to cool to room temperature, and then saturated aqueous sodium hydrogen carbonate solution and 28% ammonia solution were poured thereto. Then, the mixture was extracted with t-butylmethyl ether. The organic layer was dried over sodium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 2-(3-ethylsulfanyl-pyridin-2-yl)-1-methyl-5-pentafluoroethyl-1H-benzimidazole (240 mg), which is hereinafter referred to as “the present compound 26”.

reactant | 2-(3-ethylsulfanyl-pyridin-2-yl)-5-iodo-1-methyl-1H-benzimidazole | 340 mg | C(C)SC=1C(=NC=CC1)C1=NC2=C(N1C)C=CC(=C2)I | C15H14IN3S
reactant | sodium pentafluoropropionate | 800 mg | FC(C(C(=O)[O-])(F)F)(F)F.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | ammonia | N | H3N
catalyst | copper iodide | 410 mg | [Cu](I)I
solvent | xylene | 5 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | NMP | 5 ml | CN1CCCC1=O | C5H9NO
product | 2-(3-ethylsulfanyl-pyridin-2-yl)-1-methyl-5-pentafluoroethyl-1H-benzimidazole | 240 mg | C(C)SC=1C(=NC=CC1)C1=NC2=C(N1C)C=CC(=C2)C(C(F)(F)F)(F)F | C17H14F5N3S
